US05277838
0.94 g (0.024 mmol of Pt) of 0.5% strength dicyclopentadienylplatinum dichloride solution (dichloromethane) was added to a solution of 13.8 g (42.9 mmol) of 4-cyanophenyl 4-(5-hexenyloxy)benzoate and 6.48 g (43.7 mmol) of pentamethyldisiloxane in 50.0 g of toluene, and the mixture was refluxed for 3 hours. After complete hydrosilylation of the olefin, a further 0.94 g (0.024 mmol of Pt) of 0.5% strength dicyclopentadienylplatinum dichloride solution (dichloromethane) were added, and the mixture was refluxed for a further 2 hours. The reaction mixture was flushed with nitrogen, and the toluene was removed by vacuum distillation on a rotary evaporator. The crude product was purified by chromatography on silica gel. The 4-cyanophenyl 4-(6-pentamethyldisiloxanylhexyloxy)benzoate obtained was additionally recrystallized from petroleum ether (100° C.-140° C.) and exhibited the following phase behavior: c 54-55 (sA 53-55) i.

reactant | 4-cyanophenyl 4-(5-hexenyloxy)benzoate | 42.9 mmol, 13.8 g | C(CCCC=C)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C#N)C=C1 | C20H19NO3
reactant | pentamethyldisiloxane | 43.7 mmol, 6.48 g | C[SiH](O[Si](C)(C)C)C | C5H16OSi2
solvent | toluene | 50.0 g | C1(=CC=CC=C1)C | C7H8
catalyst | dicyclopentadienylplatinum dichloride | C1(C=CC=C1)[Pt](C1C=CC=C1)(Cl)Cl
product | 4-cyanophenyl 4-(6-pentamethyldisiloxanylhexyloxy)benzoate | C[Si](O[Si](C)(C)C)(CCCCCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)C#N)C=C1)C | C25H35NO4Si2
